US04482560
20.0 Grams of 8-bromo-5-hydroxy-3,4-dihydrocarbostyril and 18 g of potassium carbonate were dispersed in 160 ml of isopropanol, then 40 ml of epichlorohydrin was added thereinto and reacted at 80° C. for 6 hours. The reaction mixture was concentrated under a reduced pressure and to the residue thus obtained was added 100 ml of 2N-sodium hydroxide and stirred well. The insoluble matters formed were obtained by filtration and washed with water and dried to obtain crude crystals. Recrystallization of the crude crystal from methanol to obtain 18.5 g of 8-bromo-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril as in the form of colorless needle-like crystals. Melting point: 220°-220° C.

reactant | 8-bromo-5-hydroxy-3,4-dihydrocarbostyril | BrC=1C=CC(=C2CCC(NC12)=O)O | C9H8BrNO2
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 40 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 160 ml | C(C)(C)O | C3H8O
product | 8-bromo-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 18.5 g | BrC=1C=CC(=C2CCC(NC12)=O)OCC1CO1 | C12H12BrNO3
